US06169107A
A mixture of 0.75 g (1.59 mmol) of ethyl 7-[4-(tert-butoxycarbonylaminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate, 5 ml of trifluoroacetic acid and 50 ml of dichloromethane was stirred at 0° C. for 2 hours. The reaction mixture was concentrated under reduced pressure. Thereafter ice water was poured onto the resulting residue and 28% aqueous ammonia was added thereto to render alkaline (pH=9 to 10). The mixture was then extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to give 0.60 g (>99%) of ethyl 7-[4-(aminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate.

reactant | ethyl 7-[4-(tert-butoxycarbonylaminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate | 1.59 mmol, 0.75 g | C(C)(C)(C)OC(=O)NCC1=CC=C(COC=2C=CC(=C3C=C(N(C23)C)C(=O)OCC)Cl)C=C1 | C25H29ClN2O5
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 7-[4-(aminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate | 0.60 g, >99% | NCC1=CC=C(COC=2C=CC(=C3C=C(N(C23)C)C(=O)OCC)Cl)C=C1 | C20H21ClN2O3
